US05223504
A mixture of 1-(4-chlorophenyl)-3-n-propyl-6-aminouracil (28.0 g; 0.1 mole), formic acid (15.1 ml; 0.4 moles) and sodium nitrite (7 g; 0.1 mole) in formamide (600 ml) was heated to 60° C. for 10 minutes. The temperature was then increased to 100° C. and sodium dithionite (2.3 g; 0.013 moles) was added over a period of 10 minutes. After addition, the temperature was increased to 190° C., mantained for 30 minutes and the reaction mixture was cooled and extracted with chloroform. The organic solution was extracted with 2N sodium hydroxide aqueous solution, washed with diethyl ether, acidified with 2N hydrochloric acid aqueous solution and extracted with chloroform. The organic extracts were washed with water, dried (Na2SO4) and the solvent was removed in vacuo to give 1-n-propyl-3-(4-chlorophenyl)-xanthine (19.5 g; yield 64.3%). After recrystallization from 90% ethanol, the melting point is 233°-234° C.

reactant | 1-(4-chlorophenyl)-3-n-propyl-6-aminouracil | 0.1 mole, 28.0 g | ClC1=CC=C(C=C1)N1C(=O)N(C(=O)C=C1N)CCC | C13H14ClN3O2
reactant | formic acid | 0.4 moles, 15.1 ml | C(=O)O | CH2O2
reactant | sodium nitrite | 0.1 mole, 7 g | N(=O)[O-].[Na+]
reactant | sodium dithionite | 0.013 moles, 2.3 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | formamide | 600 ml | C(=O)N | CH3NO
product | 1-n-propyl-3-(4-chlorophenyl)-xanthine | 19.5 g, yield 64.3% | C(CC)N1C(=O)N(C=2N=CNC2C1=O)C1=CC=C(C=C1)Cl | C14H13ClN4O2
